US08383629B2
A solution of tert-butyl 7-bromo-2-(4-methoxybenzyl)-3-oxo-2′,3′-dihydro-1′H-spiro[isoindoline-1,4′-pyridine]-1′-carboxylate (5 g, 0.01 mol) in TFA (50 mL) and CF3SO3H (5 mL) was stirred and heated for 8 h. The mixture was concentrated to give a residue which was washed with aq NaOH and extracted with EtOAc. The organic layer was dried and concentrated to give 7-bromo-2′,3′-dihydro-1′H-spiro[isoindoline-1,4′-pyridin]-3-one (2.0 g, 72%).

reactant | tert-butyl 7-bromo-2-(4-methoxybenzyl)-3-oxo-2′,3′-dihydro-1′H-spiro[isoindoline-1,4′-pyridine]-1′-carboxylate | 0.01 mol, 5 g | BrC=1C=CC=C2C(N(C3(CCN(C=C3)C(=O)OC(C)(C)C)C12)CC1=CC=C(C=C1)OC)=O | C25H27BrN2O4
solvent | TFA | 50 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CF3SO3H | 5 mL | C(F)(F)(F)S(=O)(=O)O | CHF3O3S
product | 7-bromo-2′,3′-dihydro-1′H-spiro[isoindoline-1,4′-pyridin]-3-one | 2.0 g, 72% | BrC=1C=CC=C2C(NC3(CCNC=C3)C12)=O | C12H11BrN2O
